US07635715B2
DIPEA (0.14 mL, 809 mmol, tert-butylglycine hydrochloride (136 mg, 809 μmol), and ethyl 5-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (150 mg, 539 μmol) were heated to 75° C. in dioxane (4 mL) for 3 hours. The resulting mixture was cooled to room temperature and concentrated in vacuo. The residue was purified by flash chromatography to give 116 mg of 1,1-dimethylethyl N-((5-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate as a white solid. MS m/e=386 (M+Na)+.

reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butylglycine hydrochloride | 809 μmol, 136 mg | Cl.N[C@@H](C(C)(C)C)C(=O)O
reactant | ethyl 5-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 539 μmol, 150 mg | FC1=C2C(=C(C(C(C2=CC=C1)(C)C)=O)C(=O)OCC)O | C15H15FO4
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl N-((5-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 116 mg | FC1=C2C(=C(C(C(C2=CC=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22FNO5
